US04460596
15.0 g of ethyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate, 250 ml of methanol, 20 ml of water and 6.3 g of potassium hydroxide are treated in Example 8. 12.0 g of 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid are thereby obtained. Yield: 88%

reactant | ethyl 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetate | 15.0 g | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)OCC)C1=CSC=C1 | C17H15NO3S
reactant | methanol | 250 ml | CO | CH4O
reactant | potassium hydroxide | 6.3 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
product | 2-[2-phenyl-5-(3-thienyl)-4-oxazolyl]acetic acid | 12.0 g, Yield: 88% | C1(=CC=CC=C1)C=1OC(=C(N1)CC(=O)O)C1=CSC=C1 | C15H11NO3S
